US07834021B2
4-Hydroxy-4-(4-morpholin-4-ylphenyl)cyclohexanone.
To an oven-dried flask was charged with Pd2(dba)3 (4.6 mg, 0.005 mmol), (o-biphenyl)P(t-Bu)2 (6.0 mg, 0.02 mmol, 2 mol %), and NaOt-Bu (135 mg, 1.4 mmol). The flask was evacuated and backfilled with nitrogen and then capped with a rubber septum. Toluene (0.5 mL), the aryl iodide (360 mg, 1.0 mmol), morpholine (102 mg, 1.2 mmol), and additional toluene (0.5 mL) were added. The mixture was stirred at room temperature until the starting aryl iodide had been completely consumed as judged by TLC analysis. The mixture was diluted with ether (20 mL), filtered through Celite, and concentrated in vacuo. The crude residue was dissolve in THF (1 mL) and was treated with 5% HCl (9 mL) at rt for 14 h. The mixture was neutralized with 1 N NaOH to pH 7, concentrated on rotvap, and then extracted with EtOAc (2×50 mL). The organic extracts were combined, washed with saline solution (2×50 mL), dried over sodium sulfate, concentrated in vacuo. The resulting residue was chromatographed on silica gel, eluting with hexane/ethyl acetate (100/0 to 0/100), to provide the desired compound (100 mg, 36% for the two steps). LCMS: 276.2 (M+H+, 100%). 1H NMR: (CDCl3) δ 7.42 (d, 2H), 6.88 (d, 2H), 3.99-3.94 (m, 4H), 3.86-3.84 (m, 4H), 3.16-3.13 (m, 4H).

reactant | NaOt-Bu | 1.4 mmol, 135 mg | CC(C)(C)[O-].[Na+]
reactant | morpholine | 1.2 mmol, 102 mg | N1CCOCC1 | C4H9NO
reactant | toluene | 0.5 mL | C1(=CC=CC=C1)C | C7H8
reactant | Toluene | 0.5 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd2(dba)3 | 0.005 mmol, 4.6 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 4-Hydroxy-4-(4-morpholin-4-ylphenyl)cyclohexanone | OC1(CCC(CC1)=O)C1=CC=C(C=C1)N1CCOCC1 | C16H21NO3
